US06743919B2
A mixture of 2-[1-(4-chloro-benzyl)-1H-indole-3-carbonyl]-3H-imidazole-4-carboxylic acid (10 mg, 0.026 mmol), 4-(dimethylamino)pyridine (DMAP) (30 mg, 0.25 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC) (30 mg, 0.16 mmol) in CH2Cl2 (2 mL) was stirred at room temperature under N2 for 1 hour. Then morpholine (0.1 mL) in CH2Cl2 (2 mL) was added followed by stirring overnight at room temperature. After removal of solvent, product {2-[1-(4-Chloro-benzyl)-1H-indole-3-carbonyl]-3H-imidazol-4-yl}-morpholin-4-yl-methanone (8 mg, yield 68%) was purified by column chromatography (ethyl acetate:methanol=10:1). 1H NMR (CD3OD) δ3.7 (m, 8H), 5.58 (s, 2H), 7.3-7.45 (m, 7H), 7.80 (s, 1H), 8.42 (m, 1H), 9.05 (s, 1H) ppm; ESMS calcd (C24H21ClN4O3): 448.13; found: 449.1 (M+H)+.

reactant | 2-[1-(4-chloro-benzyl)-1H-indole-3-carbonyl]-3H-imidazole-4-carboxylic acid | 0.026 mmol, 10 mg | ClC1=CC=C(CN2C=C(C3=CC=CC=C23)C(=O)C2=NC=C(N2)C(=O)O)C=C1 | C20H14ClN3O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.16 mmol, 30 mg | Cl.CN(CCCN=C=NCC)C
reactant | morpholine | 0.1 mL | N1CCOCC1 | C4H9NO
catalyst | 4-(dimethylamino)pyridine | 0.25 mmol, 30 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | {2-[1-(4-Chloro-benzyl)-1H-indole-3-carbonyl]-3H-imidazol-4-yl}-morpholin-4-yl-methanone | 8 mg, yield 68% | ClC1=CC=C(CN2C=C(C3=CC=CC=C23)C(=O)C2=NC=C(N2)C(=O)N2CCOCC2)C=C1 | C24H21ClN4O3
